US04315011
A mixture of 1.00 g. (3.53 mmoles) of 5-bromo-tryptamine-2-carboxylic acid and 80 ml. of 10% aqueous sulfuric acid is stirred and refluxed for 30 hours. The pH of the mixture is adjusted to 9 with concentrated aqueous ammonia under cooling in an ice bath, and the alkaline mixture is extracted with 4×20 ml. of chloroform. The organic extracts are combined, washed with 5% aqueous sodium hydroxide solution and then with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate is evaporated in vacuo. 0.48 g. (58%) of 5-bromo-tryptamine are obtained as an oily residue.

reactant | 5-bromo-tryptamine-2-carboxylic acid | 3.53 mmoles | BrC1=CC=C2NC(=C(CCN)C2=C1)C(=O)O | C11H11BrN2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 5-bromo-tryptamine | 58% | BrC1=CC=C2NC=C(CCN)C2=C1 | C10H11BrN2
